US07202364B2
Sodium nitrite (811 mg, 11.8 mmol) is added over a period of 15 minutes to concentrated sulfuric acid (10 mL) while stirring. The mixture is heated to 70° C. for 15 minutes. After cooling to room temperature, a solution of 6-amino-2-naphthoic acid (2 g, 10.7 mmol) in acetic acid (10 mL) is added dropwise at such a rate that the temperature is kept below 40° C. After stirring at 40° C. for an additional 30 minutes, the reaction mixture is poured into an ice-cooled solution of copper(I) chloride (2.54 g, 25.6 mmol) in concentrated HCl (30 mL). After stirring at 80° C. for 30 minutes, water (80 mL) is added. The precipitate is collected and purified by flash chromatography on silica gel (5% methanol in dichloromethane) to give 6-chloro-2-naphthoic acid as a brown solid.

reactant | Sodium nitrite | 11.8 mmol, 811 mg | N(=O)[O-].[Na+]
reactant | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
reactant | 6-amino-2-naphthoic acid | 10.7 mmol, 2 g | NC=1C=C2C=CC(=CC2=CC1)C(=O)O | C11H9NO2
reactant | water | 80 mL | O | H2O
reactant | HCl | 30 mL | Cl | ClH
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
catalyst | copper(I) chloride | 25.6 mmol, 2.54 g | [Cu]Cl
product | 6-chloro-2-naphthoic acid | ClC=1C=C2C=CC(=CC2=CC1)C(=O)O | C11H7ClO2
